US07563805B2
(3S)-3-(tert-Butoxycarbonylamino)-3-fluoromethyl-4-methyl-1-[(1R)-1-phenylethyl]pyrrolidine
To a solution of (3S)-3-(tert-butoxycarbonylamino)-3-fluoromethyl-4-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine (485 mg, 1.38 mmol) in tetrahydrofuran (10 mL), 1.00M solution of borane in tetrahydrofuran (4.57 mL, 4.57 mmol) was added in an ice bath, and the mixture was stirred at room temperature for 15 hours. After concentrating the reaction mixture under reduced pressure, water (1 mL), ethanol (9 mL), and triethylamine (1 mL) were added in an ice bath, and the mixture was heated under reflux for 1.5 hours. After concentrating the reaction mixture under reduced pressure, water (100 mL) was added, and the mixture was extracted with chloroform (100 mL×2). The organic layer was washed with saturated aqueous solution of sodium chloride (100 mL), and dried with anhydrous sodium sulfate. After the filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (elusion by hexane ethyl acetate, 12:1→1:1) to obtain 350 mg (75%) of the title compound as a colorless oily substance.

reactant | (3S)-3-(tert-butoxycarbonylamino)-3-fluoromethyl-4-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine | 1.38 mmol, 485 mg | C(C)(C)(C)OC(=O)N[C@@]1(CN(C(C1C)=O)[C@H](C)C1=CC=CC=C1)CF | C19H27FN2O3
reactant | borane | B | BH3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.57 mmol, 4.57 mL | O1CCCC1 | C4H8O
product | (3S)-3-(tert-Butoxycarbonylamino)-3-fluoromethyl-4-methyl-1-[(1R)-1-phenylethyl]pyrrolidine | 350 mg, 75% | C(C)(C)(C)OC(=O)N[C@@]1(CN(CC1C)[C@H](C)C1=CC=CC=C1)CF | C19H29FN2O2
